US04279818
Phosphorus oxychloride (0.56 g) was at a time added under 5° C. to a mixture of 2-methoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetic acid (syn isomer) (0.6 g) and dry ethyl acetate (6 ml), and the mixture was stirred for 20 minutes at 4° to 6° C. Bis(trimethylsilyl)acetamide (0.3 g) was at a time added thereto at the same temperature and the mixture was stirred for 10 minutes at the same temperature.To the resulting mixture was at a time added phosphorus oxychloride (0.56 g) and the mixture was stirred for 30 minutes at the same temperature, to which was added dropwise dimethylformamide (0.24 g) and the resulting mixture was stirred for 30 minutes at 4° to 6° C. Thus obtained solution was at a time added with stirring at -15° C. to a solution of 7-amino-3-(4-nitrobenzoyl)oxymethyl-3-cephem-4-carboxylic acid (1.1 g) and trimethylsilylacetamide (3.5 g) in dry ethyl acetate (20 ml), and the resulting mixture was stirred for 2 hours at -5° to -10° C. The reaction mixture was adjusted to pH 7-7.5 with a saturated aqueous solution of sodium bicarbonate under 0° C., stirred for 1 hour at pH 7 under 5° C., adjusted to pH 2.5 and filtered. The organic layer in the filtrate was separated, and water (20 ml) was added thereto. The mixture was adjusted to pH 6.5 with sodium bicarbonate. The aqueous layer was separated and washed with diethyl ether. Remaining solvent in the aqueous layer was removed by passing nitrogen gas, and the aqueous layer was adjusted to pH 2.5 with 10% hydrochloric acid under ice-cooling. Precipitates were collected by filtration, washed with water and dried to give pale yellow powder of 7-[2-methoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetamido]-3-(4-nitrobenzoyl)oxymethyl-3-cephem-4-carboxylic acid (syn isomer) (0.7 g), mp 151° to 163° C. (dec.).

reactant | Phosphorus oxychloride | 0.56 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-methoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetic acid | 0.6 g | CON=C(C(=O)O)C=1N=C(SC1)N | C6H7N3O3S
reactant | Bis(trimethylsilyl)acetamide | 0.3 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | phosphorus oxychloride | 0.56 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-3-(4-nitrobenzoyl)oxymethyl-3-cephem-4-carboxylic acid | 1.1 g | NC1[C@@H]2N(C(=C(CS2)COC(C2=CC=C(C=C2)[N+](=O)[O-])=O)C(=O)O)C1=O | C15H13N3O7S
reactant | trimethylsilylacetamide | 3.5 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 0.24 g | CN(C=O)C | C3H7NO
product | 7-[2-methoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetamido]-3-(4-nitrobenzoyl)oxymethyl-3-cephem-4-carboxylic acid | 0.7 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(C2=CC=C(C=C2)[N+](=O)[O-])=O)C(=O)O)C1=O)C=1N=C(SC1)N | C21H18N6O9S2
